**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  RM-Style Offline Flyback Transformers
* Matchcode:              WE-OLRM
* Library Type:           Pspice
* Version:                rev25a
* Created/modified by:    Ella     
* Date and Time:          2025-03-05
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************	
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************
.subckt	OLRM_RM8_7508112110		2  1  10  8  9  7  4  6  5	
.param RxLkg=5442.33ohm				
.param Leakage=12.6uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	1	1a	{RxLkg/2}	
L_Lkg2	1	1a	{Leakage/2}	
Lpri1	2a	2b	161.2uH	
Rser1	2b	1	272mohm	
Lpri2	1a	1b	161.2uH	
Rser2	1b	10	272mohm	
Laux1	8	8a	14.036uH	
Rser3	8a	9	89mohm	
Lsec1	7	7a	1.856uH	
Rser5	7a	4	16mohm	
Lsec2	6	6a	1.856uH	
Rser6	6a	5	16mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=40pf				
.param Cprm2=40pf				
.param Rdmp1=72348.49ohm				
.param Rdmp2=72348.49ohm				
Cpri1	2	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Cpri2	1	10a	{Cprm2}	
Rser14	10a	10	10mohm	
Rdmp1	2	1	{Rdmp1}	
Rdmp2	1	10	{Rdmp2}	
Rg3	2	0	20meg	
Rg5	8	0	20meg	
Rg7	1	0	20meg	
Rg8	10	0	20meg	
Rg9	9	0	20meg	
Rg11	7	0	20meg	
Rg12	6	0	20meg	
Rg19	4	0	20meg	
Rg20	5	0	20meg	
.ends				
.subckt	OLRM_RM10_750811648		2  1  10  8  9  7  4  6  5	
.param RxLkg=1958.39ohm				
.param Leakage=9uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	1	1a	{RxLkg/2}	
L_Lkg2	1	1a	{Leakage/2}	
Lpri1	2a	2b	595.5uH	
Rser1	2b	1	580mohm	
Lpri2	1a	1b	595.5uH	
Rser2	1b	10	580mohm	
Laux1	8	8a	118.519uH	
Rser3	8a	9	285mohm	
Lsec1	7	7a	118.519uH	
Rser5	7a	4	165mohm	
Lsec2	6	6a	118.519uH	
Rser6	6a	5	165mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=44pf				
.param Cprm2=44pf				
.param Rdmp1=130559.56ohm				
.param Rdmp2=130559.56ohm				
Cpri1	2	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Cpri2	1	10a	{Cprm2}	
Rser14	10a	10	10mohm	
Rdmp1	2	1	{Rdmp1}	
Rdmp2	1	10	{Rdmp2}	
Rg3	2	0	20meg	
Rg5	8	0	20meg	
Rg7	1	0	20meg	
Rg8	10	0	20meg	
Rg9	9	0	20meg	
Rg11	7	0	20meg	
Rg12	6	0	20meg	
Rg19	4	0	20meg	
Rg20	5	0	20meg	
.ends				
.subckt	OLRM_RM10_7508116318		2  1  10  8  9  7  4  6  5	
.param RxLkg=4214.63ohm				
.param Leakage=9uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	1	1a	{RxLkg/2}	
L_Lkg2	1	1a	{Leakage/2}	
Lpri1	2a	2b	145.5uH	
Rser1	2b	1	565mohm	
Lpri2	1a	1b	145.5uH	
Rser2	1b	10	565mohm	
Laux1	8	8a	29.63uH	
Rser3	8a	9	270mohm	
Lsec1	7	7a	7.407uH	
Rser5	7a	4	40mohm	
Lsec2	6	6a	7.407uH	
Rser6	6a	5	40mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=38pf				
.param Cprm2=38pf				
.param Rdmp1=70243.81ohm				
.param Rdmp2=70243.81ohm				
Cpri1	2	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Cpri2	1	10a	{Cprm2}	
Rser14	10a	10	10mohm	
Rdmp1	2	1	{Rdmp1}	
Rdmp2	1	10	{Rdmp2}	
Rg3	2	0	20meg	
Rg5	8	0	20meg	
Rg7	1	0	20meg	
Rg8	10	0	20meg	
Rg9	9	0	20meg	
Rg11	7	0	20meg	
Rg12	6	0	20meg	
Rg19	4	0	20meg	
Rg20	5	0	20meg	
.ends				
.subckt	OLRM_RM10_7508112355		2  1  10  8  9  7  4  6  5	
.param RxLkg=4214.63ohm				
.param Leakage=9uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	1	1a	{RxLkg/2}	
L_Lkg2	1	1a	{Leakage/2}	
Lpri1	2a	2b	145.5uH	
Rser1	2b	1	575mohm	
Lpri2	1a	1b	145.5uH	
Rser2	1b	10	575mohm	
Laux1	8	8a	29.63uH	
Rser3	8a	9	280mohm	
Lsec1	7	7a	19.56uH	
Rser5	7a	4	10mohm	
Lsec2	6	6a	19.56uH	
Rser6	6a	5	10mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=38pf				
.param Cprm2=38pf				
.param Rdmp1=70243.81ohm				
.param Rdmp2=70243.81ohm				
Cpri1	2	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Cpri2	1	10a	{Cprm2}	
Rser14	10a	10	10mohm	
Rdmp1	2	1	{Rdmp1}	
Rdmp2	1	10	{Rdmp2}	
Rg3	2	0	20meg	
Rg5	8	0	20meg	
Rg7	1	0	20meg	
Rg8	10	0	20meg	
Rg9	9	0	20meg	
Rg11	7	0	20meg	
Rg12	6	0	20meg	
Rg19	4	0	20meg	
Rg20	5	0	20meg	
.ends				
.subckt	OLRM_RM10_7508112111		2  1  10  8  9  7  4  6  5	
.param RxLkg=7302.97ohm				
.param Leakage=16uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	1	1a	{RxLkg/2}	
L_Lkg2	1	1a	{Leakage/2}	
Lpri1	2a	2b	142uH	
Rser1	2b	1	575mohm	
Lpri2	1a	1b	142uH	
Rser2	1b	10	575mohm	
Laux1	8	8a	29.63uH	
Rser3	8a	9	285mohm	
Lsec1	7	7a	1.852uH	
Rser5	7a	4	12mohm	
Lsec2	6	6a	1.852uH	
Rser6	6a	5	12mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=40pf				
.param Cprm2=40pf				
.param Rdmp1=68465.36ohm				
.param Rdmp2=68465.36ohm				
Cpri1	2	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Cpri2	1	10a	{Cprm2}	
Rser14	10a	10	10mohm	
Rdmp1	2	1	{Rdmp1}	
Rdmp2	1	10	{Rdmp2}	
Rg3	2	0	20meg	
Rg5	8	0	20meg	
Rg7	1	0	20meg	
Rg8	10	0	20meg	
Rg9	9	0	20meg	
Rg11	7	0	20meg	
Rg12	6	0	20meg	
Rg19	4	0	20meg	
Rg20	5	0	20meg	
.ends				
.subckt	OLRM_RM6_7508114310		2  3  4  5  6  7  10  9  12	
.param RxLkg=5225.13ohm				
.param Leakage=31uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	2a	2b	984.5uH	
Rser1	2b	3	2750mohm	
Lpri2	3a	3b	984.5uH	
Rser2	3b	4	2750mohm	
Laux1	5	5a	160uH	
Rser3	5a	6	950mohm	
Lsec1	7	7a	40uH	
Rser5	7a	10	145mohm	
Lsec2	9	9a	40uH	
Rser6	9a	12	145mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=44pf				
.param Cprm2=44pf				
.param Rdmp1=168552.73ohm				
.param Rdmp2=168552.73ohm				
Cpri1	2	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Cpri2	3	4a	{Cprm2}	
Rser14	4a	4	10mohm	
Rdmp1	2	3	{Rdmp1}	
Rdmp2	3	4	{Rdmp2}	
Rg3	2	0	20meg	
Rg5	5	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg9	6	0	20meg	
Rg11	7	0	20meg	
Rg12	9	0	20meg	
Rg19	10	0	20meg	
Rg20	12	0	20meg	
.ends				
.subckt	OLRM_RM6_750811418		2  3  4  5  6  7  10  9  12	
.param RxLkg=5217.53ohm				
.param Leakage=28uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	2a	2b	986uH	
Rser1	2b	3	2700mohm	
Lpri2	3a	3b	986uH	
Rser2	3b	4	2750mohm	
Laux1	5	5a	136.331uH	
Rser3	5a	6	880mohm	
Lsec1	7	7a	5.917uH	
Rser5	7a	10	30mohm	
Lsec2	9	9a	34.083uH	
Rser6	9a	12	140mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=36pf				
.param Cprm2=36pf				
.param Rdmp1=186340.43ohm				
.param Rdmp2=186340.43ohm				
Cpri1	2	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Cpri2	3	4a	{Cprm2}	
Rser14	4a	4	10mohm	
Rdmp1	2	3	{Rdmp1}	
Rdmp2	3	4	{Rdmp2}	
Rg3	2	0	20meg	
Rg5	5	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg9	6	0	20meg	
Rg11	7	0	20meg	
Rg12	9	0	20meg	
Rg19	10	0	20meg	
Rg20	12	0	20meg	
.ends				
.subckt	OLRM_RM6_7508110348		2  3  4  5  6  9  11  8  10	
.param RxLkg=5967.52ohm				
.param Leakage=35uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	2a	2b	982.5uH	
Rser1	2b	3	3750mohm	
Lpri2	3a	3b	982.5uH	
Rser2	3b	4	3750mohm	
Laux1	5	5a	160uH	
Rser3	5a	6	635mohm	
Lsec1	9	9a	40uH	
Rser5	9a	11	160mohm	
Lsec2	8	8a	40uH	
Rser6	8a	10	160mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=43pf				
.param Cprm2=43pf				
.param Rdmp1=170500.52ohm				
.param Rdmp2=170500.52ohm				
Cpri1	2	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Cpri2	3	4a	{Cprm2}	
Rser14	4a	4	10mohm	
Rdmp1	2	3	{Rdmp1}	
Rdmp2	3	4	{Rdmp2}	
Rg3	2	0	20meg	
Rg5	5	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg9	6	0	20meg	
Rg11	9	0	20meg	
Rg12	8	0	20meg	
Rg19	11	0	20meg	
Rg20	10	0	20meg	
.ends				
.subckt	OLRM_RM6_7508110172		2  3  4  5  6  9  11  8  10	
.param RxLkg=6347.96ohm				
.param Leakage=35uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	3	3a	{RxLkg/2}	
L_Lkg2	3	3a	{Leakage/2}	
Lpri1	2a	2b	982.5uH	
Rser1	2b	3	2925mohm	
Lpri2	3a	3b	982.5uH	
Rser2	3b	4	2925mohm	
Laux1	5	5a	111.111uH	
Rser3	5a	6	885mohm	
Lsec1	9	9a	6.944uH	
Rser5	9a	11	30mohm	
Lsec2	8	8a	6.944uH	
Rser6	8a	10	30mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=38pf				
.param Cprm2=38pf				
.param Rdmp1=181370.43ohm				
.param Rdmp2=181370.43ohm				
Cpri1	2	3a	{Cprm1}	
Rser13	3a	3	10mohm	
Cpri2	3	4a	{Cprm2}	
Rser14	4a	4	10mohm	
Rdmp1	2	3	{Rdmp1}	
Rdmp2	3	4	{Rdmp2}	
Rg3	2	0	20meg	
Rg5	5	0	20meg	
Rg7	3	0	20meg	
Rg8	4	0	20meg	
Rg9	6	0	20meg	
Rg11	9	0	20meg	
Rg12	8	0	20meg	
Rg19	11	0	20meg	
Rg20	10	0	20meg	
.ends				
.subckt	OLRM_RM8_7508116316		2  1  10  8  9  7  4  6  5	
.param RxLkg=5432.26ohm				
.param Leakage=12.9uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	1	1a	{RxLkg/2}	
L_Lkg2	1	1a	{Leakage/2}	
Lpri1	2a	2b	179.05uH	
Rser1	2b	1	448.5mohm	
Lpri2	1a	1b	179.05uH	
Rser2	1b	10	448.5mohm	
Laux1	8	8a	16.695uH	
Rser3	8a	9	308mohm	
Lsec1	7	7a	9.391uH	
Rser5	7a	4	26mohm	
Lsec2	6	6a	1.855uH	
Rser6	6a	5	18mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=38pf				
.param Cprm2=38pf				
.param Rdmp1=78115.04ohm				
.param Rdmp2=78115.04ohm				
Cpri1	2	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Cpri2	1	10a	{Cprm2}	
Rser14	10a	10	10mohm	
Rdmp1	2	1	{Rdmp1}	
Rdmp2	1	10	{Rdmp2}	
Rg3	2	0	20meg	
Rg5	8	0	20meg	
Rg7	1	0	20meg	
Rg8	10	0	20meg	
Rg9	9	0	20meg	
Rg11	7	0	20meg	
Rg12	6	0	20meg	
Rg19	4	0	20meg	
Rg20	5	0	20meg	
.ends				
.subckt	OLRM_RM8_750811618		2  1  10  8  9  7  4  6  5	
.param RxLkg=5580.13ohm				
.param Leakage=15.2uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	1	1a	{RxLkg/2}	
L_Lkg2	1	1a	{Leakage/2}	
Lpri1	2a	2b	177.9uH	
Rser1	2b	1	443.5mohm	
Lpri2	1a	1b	177.9uH	
Rser2	1b	10	443.5mohm	
Laux1	8	8a	16.695uH	
Rser3	8a	9	500mohm	
Lsec1	7	7a	1.855uH	
Rser5	7a	4	9mohm	
Lsec2	6	6a	9.391uH	
Rser6	6a	5	36mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=50pf				
.param Cprm2=50pf				
.param Rdmp1=68099.64ohm				
.param Rdmp2=68099.64ohm				
Cpri1	2	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Cpri2	1	10a	{Cprm2}	
Rser14	10a	10	10mohm	
Rdmp1	2	1	{Rdmp1}	
Rdmp2	1	10	{Rdmp2}	
Rg3	2	0	20meg	
Rg5	8	0	20meg	
Rg7	1	0	20meg	
Rg8	10	0	20meg	
Rg9	9	0	20meg	
Rg11	7	0	20meg	
Rg12	6	0	20meg	
Rg19	4	0	20meg	
Rg20	5	0	20meg	
.ends				
.subckt	OLRM_RM8_7508112349		2  1  10  8  9  7  4  6  5	
.param RxLkg=4425.72ohm				
.param Leakage=9.8uh				
Rlkg	2	2a	{RxLkg/2}	
L_Lkg	2	2a	{Leakage/2}	
Rlkg2	1	1a	{RxLkg/2}	
L_Lkg2	1	1a	{Leakage/2}	
Lpri1	2a	2b	165.35uH	
Rser1	2b	1	314.5mohm	
Lpri2	1a	1b	165.35uH	
Rser2	1b	10	314.5mohm	
Laux1	8	8a	16.817uH	
Rser3	8a	9	231mohm	
Lsec1	7	7a	8.895uH	
Rser5	7a	4	26mohm	
Lsec2	6	6a	8.895uH	
Rser6	6a	5	26mohm	
K Lpri1 Lpri2 Laux1  Lsec1 Lsec2       1				
.param Cprm1=36pf				
.param Cprm2=36pf				
.param Rdmp1=76885.57ohm				
.param Rdmp2=76885.57ohm				
Cpri1	2	1a	{Cprm1}	
Rser13	1a	1	10mohm	
Cpri2	1	10a	{Cprm2}	
Rser14	10a	10	10mohm	
Rdmp1	2	1	{Rdmp1}	
Rdmp2	1	10	{Rdmp2}	
Rg3	2	0	20meg	
Rg5	8	0	20meg	
Rg7	1	0	20meg	
Rg8	10	0	20meg	
Rg9	9	0	20meg	
Rg11	7	0	20meg	
Rg12	6	0	20meg	
Rg19	4	0	20meg	
Rg20	5	0	20meg	
.ends